US05084435
50.8 g of N-ethyl aniline together with 48.8 g of 1,6-dibromohexane and 25.2 g of sodium carbonate were dissolved in 500 ml of toluene. The mixture was stirred while refluxed at 115° C. Reflux was continued overnight. The precipitate was filtered and stirred in 1.25 l of ethyl acetate. The ethyl acetate phase was washed with 500 ml of water and 20 ml of acetic acid. The filtrate and the ethyl acetate phase were washed with a saturated sodium chloride solution and dried on sodium sulfate. The reaction product was isolated by concentration under reduced pressure. 45.4 g of N,N'-diethyl-N,N'-diphenyl-1,6-diaminohexane were obtained (yield: 70%).

reactant | N-ethyl aniline | 50.8 g | C(C)NC1=CC=CC=C1 | C8H11N
reactant | 1,6-dibromohexane | 48.8 g | BrCCCCCCBr | C6H12Br2
reactant | sodium carbonate | 25.2 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | N,N'-diethyl-N,N'-diphenyl-1,6-diaminohexane | 45.4 g, yield: 70% | C(C)N(CCCCCCN(C1=CC=CC=C1)CC)C1=CC=CC=C1 | C22H32N2
